US07700589B2
9h) (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid
74.4 g (0.147 mol) methyl (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate dissolved in 600 mL THF was combined with 5.4 g (0.221 mol) lithium hydroxide hydrate in 300 mL water while cooling with an ice bath and stirred overnight at RT. The reaction mixture was evaporated down under reduced pressure, 300 mL water was added and the mixture was extracted three times with 200 mL EtOAc. The aqueous phase was freed from the organic solvent under reduced pressure and combined with 500 mL 2 M HCl with stirring and cooling with the ice bath. The precipitate formed was suction filtered, washed with water and dried.

reactant | methyl (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate | 0.147 mol, 74.4 g | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)OC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C29H38N4O4
reactant | lithium hydroxide hydrate | 0.221 mol, 5.4 g | O.[OH-].[Li+]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
